US07238725B2
Intermediate 97: 4-Ethyldibenzothiophene
n-Butyllithium (108 mmols, 46 ml of 2.4M solution in hexane) was added to a stirred solution of dibenzothiophene (10 g, 54 mmole) in dried THF (150 ml) at 0° C. over a period of 1 hr under dry N2 atmosphere. This reaction mixture was stirred 5 hrs at room temperature then the reaction mixture was cooled to −70° C. and a solution of ethyl iodide in dry THF was added dropwise and stirred at room temperature for over night. This reaction mixture was poured slowly into a cold 1N HCl (200 ml). Organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×500 ml). Organic layers mixed together and concentrated to dryness to get crude product. The crude product was purified by silica gel column chromatography.

reactant | n-Butyllithium | 108 mmols, 2.4M, 46 ml | C(CCC)[Li]
reactant | dibenzothiophene | 54 mmole, 10 g | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | ethyl iodide | C(C)I | C2H5I
reactant | HCl | 1N, 200 ml | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-Ethyldibenzothiophene | C(C)C1=CC=CC2=C1SC1=C2C=CC=C1 | C14H12S
